US08071592B2
(b) 7-chloro-6-{[({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-piperidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one
A solution of 1-{2-[(3S)-3-(aminomethyl)-1-piperidinyl]ethyl}-7-fluoro-2(1H)-quinolinone (90 mg; 0.3 mmol) and 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c)) (64 mg, 0.3 mmol) in methanol (2 ml), DCM (4 ml) was stirred at rt overnight. Sodium triacetoxyborohydride (0.127 g; 0.6 mmol) was added and the mixture was stirred at room temperature for 1 h. The reaction was evaporated and chromatographed on silica gel, eluting with 0-15% methanol-DCM-1% NH4OH to give an oil. The oil was treated with 1M HCl in Et2O to give the title compound (14 mg) as the dihydrochloride salt. 1H NMR (400 MHz, CD3OD) δ ppm 1.07 (s, 1H) 1.59-1.69 (m, 1H) 1.71-1.83 (m, 2H) 1.83-1.94 (m, 2H) 2.15-2.23 (m, 1H) 2.56-2.61 (m, 21H) 2.63-2.75 (m, 3H) 2.97 (s, 1H) 3.13-3.20 (m, 1H) 3.90 (s, 2H) 4.49 (td, J=14.21, 7.71 Hz, 2H) 6.67 (d, J=9.60 Hz, 1H) 7.11 (td, J=8.46, 2.27 Hz, 1H) 7.38-7.50 (m, 2H) 7.75 (dd, J=8.72, 6.19 Hz, 1H) 7.91 (d, J=9.60 Hz, 1H)

reactant | 1-{2-[(3S)-3-(aminomethyl)-1-piperidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | 0.3 mmol, 90 mg | NC[C@H]1CN(CCC1)CCN1C(C=CC2=CC=C(C=C12)F)=O | C17H22FN3O
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
reactant | Sodium triacetoxyborohydride | 0.6 mmol, 0.127 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | 2 ml | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 7-chloro-6-{[({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-piperidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 14 mg | ClC1=CC=2OCC(NC2N=C1CNC[C@H]1CN(CCC1)CCN1C(C=CC2=CC=C(C=C12)F)=O)=O | C25H27ClFN5O3
